* C:\Program Files\LTC\LTspiceIV\Photoresistor_Array\Photoresistor_Array.asc
R1 A_Out0 N001 {R00}
D1 N001 Read0 D
R2 A_Out1 N002 {R10}
D2 N002 Read0 D
R3 A_Out0 N003 {R01}
D3 N003 Read1 D
R4 A_Out1 N004 {R11}
D4 N004 Read1 D
Rload1 Read1 0 10k
Rload0 Read0 0 10k
XU1 Vcon1 A_Out1 arduino_output
XU2 Vcon0 A_Out0 arduino_output
Vcon1 Vcon1 0 {Vcon1}
Vcon0 Vcon0 0 {Vcon0}
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.include C:\Program Files\LTC\LTspiceIV\lib\sub\Arduino_Output.sub
.op
*************************** Resistance Parameters*******************
.param
+R00={Rlight} R10={Rlight}
+R01={Rlight} R11={Rlight}
*************************** End Resistance Parameters*************
.param Rdark=1MEG Rlight=1
*************************** Voltage Parameters*******************
.param
+vcon0=-5 vcon1=5
*************************** End Voltage Parameters*************
.backanno
.end
